US08106208B2
(b) 4-[(1-Azetidin-3-ylpiperidin-4-yl)carbonyl]morpholine
4-({1-[1-(Diphenylmethyl)azetidin-3-yl]piperidin-4-yl}carbonyl)morpholine (0.44 g, 1.0 mmol) was dissolved in ethanol and to the resultant solution was added palladium hydroxide on carbon (0.15 g) and ammonium formate (0.27 g, 4.2 mmol). The reaction mixture was heated for 2 min at 120° C. using microwave single node heating. The catalyst was filtered off by means of a phase separator and the filter cake washed with ethanol. The solvent was removed by evaporation and the residue was dissolved in methanol (1 mL) and THF (10 mL). The solution was loaded on a cation exchange sorbent (Isolute® SCX-2; 10 g). The column washed with THF and the product was then eluted with ammonia saturated methanol. The solvent of the collected fractions was removed by evaporation and there was obtained 0.11 g of the title compound as colourless oil. 1H NMR (500 MHz, CD3OD): 1.7-1.8 (m, 4H), 1.9-2.0 (m, 2H), 2.6-2.9 (m, 4H), 3.3-3.4 (m, 1H), 3.5-3.7 (m, 8H), 3.8-4.0 (m, 3H); LCMS: m/z 254 (M+1)+.

reactant | 4-({1-[1-(Diphenylmethyl)azetidin-3-yl]piperidin-4-yl}carbonyl)morpholine | 1.0 mmol, 0.44 g | C1(=CC=CC=C1)C(N1CC(C1)N1CCC(CC1)C(=O)N1CCOCC1)C1=CC=CC=C1 | C26H33N3O2
reactant | ammonium formate | 4.2 mmol, 0.27 g | C(=O)[O-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.15 g | [OH-].[OH-].[Pd+2]
product | 4-[(1-Azetidin-3-ylpiperidin-4-yl)carbonyl]morpholine | 0.11 g | N1CC(C1)N1CCC(CC1)C(=O)N1CCOCC1 | C13H23N3O2
